US04154761
(a) 1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[[1-methyl-3-(methylphenylamino)propyl](phenylmethyl)amino]ethanone
A solution of 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone (9.1 g) and N-methyl-N-phenyl-N'-(phenylmethyl)-1,3-benzenediamine (16.6 g) in butanone (200 ml) was heated under reflux for 4 hours. The mixture was cooled at 0° and the amine hydrobromide was filtered off. The filtrate was evaporated and a solution of the residue in 2 N hydrochloric acid (200 ml) was extracted with ethyl acetate. The acidic solution was basified with solid sodium bicarbonate and then extracted with ethyl acetate. The solvents were evaporated to give a brown gum (10.7 g). The crude product in ethyl acetate was filtered through a column of silica (100 g) to yield a light brown gum (7.9 g).

reactant | 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone | 9.1 g | BrCC(=O)C1=CC(=C(C=C1)O)CO | C9H9BrO3
reactant | N-methyl-N-phenyl-N'-(phenylmethyl)-1,3-benzenediamine | 16.6 g | CN(C1=CC(=CC=C1)NCC1=CC=CC=C1)C1=CC=CC=C1 | C20H20N2
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[[1-methyl-3-(methylphenylamino)propyl](phenylmethyl)amino]ethanone | 10.7 g | OC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)C(CCN(C1=CC=CC=C1)C)C)=O)CO | C27H32N2O3
